US05817693
b) Allyl(1S,2R,3S)-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate
Allyl(1S,2R,3S)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (1.7 g, 3.11 mmol) was dissolved in allyl alcohol (20 ml) and then 15 drops of conc. HCl was added. The resulting solution was stirred at 65° C. for 2 h. After removing the solvent the residue was partitioned between water and ethyl acetate. The organic layers were washed with water, 5% aqueous NaHCO3 and brine; then dried (MgSO4 anhyd.), filtered and evaporated to give an oil. The product was purified by column chromatography to provide the title compound as a pale yellow oil (1.26 g, 81%).

reactant | Allyl(1S,2R,3S)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 3.11 mmol, 1.7 g | COC1=CC(=C(C=C1)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OCC=C)OCOC | C32H34O8
solvent | allyl alcohol | 20 ml | C(C=C)O | C3H6O
catalyst | HCl | 15 drops | Cl | ClH
product | Allyl(1S,2R,3S)-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 1.26 g, 81% | OC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OCC=C | C30H30O7
